US08202868B2
Pyridine-2-carboxylic acid {4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-amide hydrochloride
0.28 g of picolic acid (2.32 mmol) and 0.8 g of 4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butylamine (2.32 mmol) were dissolved in 30 ml of dichloromethane. After addition of 1.19 g of diisopropylethylamine (9.26 mmol), 0.155 g of hydroxybenzotriazole (HOBt, 1.15 mmol), and 0.487 g of N-ethyl-N′-(3-dimethylaminopropyl)-carbodiimide hydrochloride (EDCl, 2.54 mmol) at 0° C., the reaction mixture was stirred for 16 h at room temperature. 0.24 g of N-Ethyl-N′-(3-dimethylaminopropyl)-carbodiimide hydrochloride were added and the reaction mixture was stirred for 5 h. 100 ml of dichloromethane were added. The organic layer was washed twice with water. The dichlormethane phase was dried over magnesium sulfate, filtered, and concentrated to dryness. The crude product was purified by chromatography on silica gel using ethyl acetate as eluent. The residue was re-dissolved in 15 ml of diethylether and treated with 1 N hydrochloric acid in diethyl ether. The precipitate was collected by filtration to yield 0.95 g of the title compound as a hydrochloride salt.

reactant | picolic acid | 2.32 mmol, 0.28 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butylamine | 2.32 mmol, 0.8 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN)C1CCC1 | C20H35N5
reactant | diisopropylethylamine | 9.26 mmol, 1.19 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydroxybenzotriazole | 1.15 mmol, 0.155 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-ethyl-N′-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 2.54 mmol, 0.487 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N-Ethyl-N′-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.24 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Pyridine-2-carboxylic acid {4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-amide hydrochloride | 0.95 g | Cl.C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCNC(=O)C1=NC=CC=C1)C1CCC1 | InChI=1S/C26H38N6O.ClH/c1-26(2,3)25-29-22(20-9-8-10-20)19-23(30-25)32-17-15-31(16-18-32)14-7-6-13-28-24(33)21-11-4-5-12-27-21;/h4-5,11-12,19-20H,6-10,13-18H2,1-3H3,(H,28,33);1H
